data/mechanisms/records/IMS8-EQ8.118.json
{"mechanism_id": "IMS8-EQ8.118", "species": [{"species_id": "bis_silyl_sulfone_molecular_ion", "mapped_smiles": "[c:1]1([cH:2][cH:3][cH:4][cH:5][cH:6]1)[S:7](=[O+:8])(=[O:9])[C:10]([Si:11]([CH3:12])([CH3:13])[CH3:14])([CH2:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26][CH2:27][CH2:28][S:29][CH2:30][CH2:31][Si:32]([CH3:33])([CH3:34])[CH3:35]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "phenyl_bis_silyloxy_sulfonium", "mapped_smiles": "[c:1]1([cH:2][cH:3][cH:4][cH:5][cH:6]1)[S+:7]([O:8][Si:11]([CH3:12])([CH3:13])[CH3:14])[O:9][Si:32]([CH3:33])([CH3:34])[CH3:35]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "thiacyclodecane_radical_neutral", "mapped_smiles": "[C:10]1([CH2:15][CH2:16][c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH2:23][CH2:24][CH2:25][CH2:26][CH2:27][CH2:28][S:29][CH2:30][CH2:31]1", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["bis_silyl_sulfone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["phenyl_bis_silyloxy_sulfonium", "thiacyclodecane_radical_neutral"]}], "steps": [{"step_id": "step_re_double_silyl_migration", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination_with_group_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [8, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "bond", "atom_maps": [8, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 11]}, "target": {"type": "atom", "atom_maps": [10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "bond", "atom_maps": [9, 32]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [31, 32]}, "target": {"type": "bond", "atom_maps": [9, 32]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [31, 32]}, "target": {"type": "atom", "atom_maps": [31]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 9]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 10]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 10]}, "target": {"type": "atom", "atom_maps": [10]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [10]}, "target": {"type": "bond", "atom_maps": [10, 31]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [31]}, "target": {"type": "bond", "atom_maps": [10, 31]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_double_silyl_migration", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.118", "figure": null, "panel": "single reaction arrow labelled 're'; the reactant is bracketed with '+.'", "section": "8.11 Other rearrangements -- 'EE+ ions can also undergo such group migrations with elimination' (Eqs 8.117-8.120)"}, "confidence": 0.4, "curator_note": "ARCS ACTUALLY DRAWN: ZERO. Equation 8.118 (attributed on the page to Wood et al. 1992) shows only the bracketed radical cation, an arrow labelled 're', and the product ion; no curved arrow, fishhook or neutral product is printed. Every one of the twelve moves encoded here is therefore curator-constructed. SUBSTRATE READ FROM THE DRAWING: C6H5SO2- on a quaternary carbon that also carries Si(CH3)3, a -CH2CH2C6H5 branch and a chain of six CH2 groups (counted vertex by vertex on the zoomed scan) running to a thioether S, then -CH2CH2Si(CH3)3; C29H48O2S2Si2, M+. m/z 548.26. PRODUCT READ FROM THE DRAWING: C6H5-S(+)(OSi(CH3)3)2 -- both trimethylsilyl groups have moved onto the two sulfonyl oxygens and the S-C bond has gone; C12H23O2SSi2+, m/z 287.10. WHAT IS CURATOR-ASSIGNED AND WHY: (i) the ionisation site. The book brackets the whole ion with '+.'; convention B requires it localised, and it is placed on one sulfonyl oxygen (n-ionisation), which is the oxygen that then captures the first silyl group. (ii) The neutral, which the book does not draw at all. Removing both silyl groups and the S-C bond leaves THREE open valences (two on the quaternary carbon, one on the silyl-bearing terminal CH2); spin conservation forbids leaving them as a triradical (a doublet ion cannot give a doublet ion plus a quartet neutral), so two of them are paired here as a new C-C bond, giving a ten-membered thioether ring carrying the phenethyl group and one unpaired electron (C17H25S., 261.17). Any other pairing (e.g. a 1,2-H shift to give an alkene plus a terminal radical) balances equally well; the ring was chosen because it needs no additional hydrogen migration. The neutral is an inference, not a reading of the page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 548.2629, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_287", "species_id": "phenyl_bis_silyloxy_sulfonium", "step_id": "step_re_double_silyl_migration", "observed_mz": 287.0953, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
